US09340556B2
To a solution of (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate (3 g, 3.63 mmol) in dichloromethane (DCM) (100 mL) at −40° C. was added dropwise a solution of 3-chlorobenzoperoxoic acid (0.976 g, 4.36 mmol) in dichloromethane 20 mL) over 1 min. The mixture was stirred at the same temperature over 30 min. LCMS indicated completion of the reaction. Dichloromethane (60 mL) was added and the mixture was treated with 15% aqueous sodium thiosulfate (40 mL). The organic solution was separated and washed with 5% sodium bicarbonate (80 mL), brine (80 mL), dried over sodium sulfate, and concentrated. The residue was purified by ISCO automated silica gel chromatography (120 g column, 0-50% ethyl acetate/hexanes) to afford (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide (2.44 g, 2.90 mmol, 53.2% yield) as a white solid. LCMS: (M+H)+: 842.2.

reactant | (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate | 3.63 mmol, 3 g | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCl)\C=1N=C(SC1)NC(=O)OC(C)(C)C)=O | C39H44ClN5O9S2
reactant | 3-chlorobenzoperoxoic acid | 4.36 mmol, 0.976 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium thiosulfate | 40 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide | 2.90 mmol, 2.44 g, 53.2% yield | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)N[C@H]1[C@H]2S(CC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCl)=O)\C=1N=C(SC1)NC(=O)OC(C)(C)C)=O | C39H44ClN5O10S2
